Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-4.63922293
[H:12].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-1.94067096025
[O:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])[H:9]>>[C:2]([O:3][C:4]#[C:5][H:6])=[C:7]([H:8])[H:9].[O:1],6.36187382916
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[O:7][H:8].[H:1][C:2]#[C:3][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],1.05985949792
[O:1]=[C:2][C@:3]([H:4])([C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5][O:6][H:7].[O:1]=[C:2]=[C:3]([H:4])[C:8]([H:9])([H:10])[H:11],0.97558523862
[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:4][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3],3.96114872053
[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.6746597287
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:6],1.6638232002200002
[C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12].[O:1]>>[O:1]=[C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-7.80123428
[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2](=[C:3]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:4],2.82036983056
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13]>>[C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13].[H:1][O:2],4.24147123997
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4](=[O:5])[C:7]([H:8])([H:9])[H:10].[H:6],1.97051537172
[H:1][C:2]#[C:3][O:4][C:5]=[C:8]([H:9])[H:10].[O:6][H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10],-6.25613412954
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],2.74924665142
[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],-7.06318572473
[C:4]([H:5])#[C:6][C:7]([H:8])[H:9].[H:1][O:2][C:3]=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],-4.19437002235
[C:4]([H:5])[O:6][C:7][H:8].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([H:5])[O:6][C:7][H:8],-7.010801670760001
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7].[C:8]([H:9])([H:10])[H:11],3.31067720631
[H:1][C:2]1=[C:3]([H:4])[C:5]1([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2](=[C:3][H:4])[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],0.90577430193
[C:2](=[C:3]([H:4])[H:5])=[C:6]([H:7])[H:8].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[H:8],-3.1946071126599995
[C:3]([H:4])([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.77797906738
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][H:7],3.67888622084
[C:4]([H:5])=[C:6]([H:7])[O:8][H:9].[H:1][O:2][C:3]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-4.47642822935
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.31064237787
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17]>>[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:13][C:14]([H:15])([H:16])[H:17],4.18951352764
[C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[O:9][H:10],-5.84212141105
[C:4](=[C:5]([H:6])[H:7])=[C:8]([H:9])[C:10]([H:11])[H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-0.7144228325190001
[C:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:1]([C:2]([H:3])=[C:9]=[C:11]([H:12])[H:13])([H:4])[H:10].[C:5]=[C:6]([H:7])[H:8],1.06524353839
[H:1][O:2][C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.80611570018
